US04956372
8-Chloro-3,4-dihydro-2H-1,4-benzothiazine-5-carboxylic acid
A mixture of 8-chloro-3,4-dihydro-2H-1,4-benzothiazine-5-carboxylic acid-1-oxide (2.5 g) and stannous chloride dihydrate (4.51 g) in methanol (20 ml) was refluxed for 21 hours. To the reaction mixture was added ethyl acetate (200 ml), washed with water and dried over anhydrous sodium sulfate. After concentrated under reduced pressure, the resulting residue was purified by silica gel column chromatography eluting with dichloromethaneethanol (9:1) to give the title compound (450 mg, 19.6%). This compound was recrystallized from ethanol to give yellow needles, mp 220° C.

reactant | 8-chloro-3,4-dihydro-2H-1,4-benzothiazine-5-carboxylic acid-1-oxide | 2.5 g | ClC=1C=CC(=C2NCCS(C21)=O)C(=O)O | C9H8ClNO3S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
product | 8-Chloro-3,4-dihydro-2H-1,4-benzothiazine-5-carboxylic acid | 450 mg, 19.6% | ClC=1C=CC(=C2NCCSC21)C(=O)O | C9H8ClNO2S
